US07951805B2
SYNTHESIS OF 6-[4-(4-FLUORO-BENZOYL)PIPERIDIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
Following the procedure as described in Example 2, making variations only as required to use (4-fluorophenyl)piperidin-4-ylmethanone to replace 3,3-difluoro-1-piperidin-4-yl-1,3-dihydroindol-2-one to react with 6-chloropyridazine-3-carboxylic acid (3-methylbutyl)amide in DMF, the title compound was obtained as a white powder in 36% yield. 1H NMR (300 MHz, CDCl3) δ 7.99-8.03 (m, 3H), 7.85-7.87 (m, 1H), 7.15-7.19 (m, 2H), 7.02 (d, J=9.6 Hz, 1H), 4.50-4.54 (m, 2H), 3.47-3.60 (m, 3H), 3.26-3.31 (m, 2H), 2.00-2.04 (m, 2H), 1.85-1.93 (m, 2H), 1.73-1.72 (m, 1H), 1.48-1.53 (m, 2H), 0.94 (d, J=6.6 Hz, 6H).

reactant | (4-fluorophenyl)piperidin-4-ylmethanone | FC1=CC=C(C=C1)C(=O)C1CCNCC1 | C12H14FNO
reactant | 3,3-difluoro-1-piperidin-4-yl-1,3-dihydroindol-2-one | FC1(C(N(C2=CC=CC=C12)C1CCNCC1)=O)F | C13H14F2N2O
reactant | 6-chloropyridazine-3-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1N=NC(=CC1)Cl)C | C10H14ClN3O
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-[4-(4-FLUORO-BENZOYL)PIPERIDIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | 36% yield | CC(CCNC(=O)C=1N=NC(=CC1)N1CCC(CC1)C(C1=CC=C(C=C1)F)=O)C | C22H27FN4O2
